US07241792B2
2-(But-3-enyl)oxirane (1.000 g, 10.2 mmol) and hex-1-ene (9.12 g, 102 mmol) were stirred at room temperature for 24 hr in a sealed scintillation vial with Zhan Catalyst-1 (0.057 g, 0.086 mmol). Solvent was removed under reduced pressure and the residue purified by column chromatography (0–10% EtOAc/n-hexane/silica) to give (±)-(E)-2-(oct-3-enyl)oxirane as a colorless oil. 1H NMR (CDCl3): δ 5.5–5.4 (m, 2H), 3.0–2.9 (m, 1H), 2.8–2.7 (m, 1H), 2.5–2.45 (m, 1H), 2.2–2.1 (m, 2H), 1.99 (q, 2H, J=5.7), 1.65–1.55 (m, 2H), 1.35–1.25 (m, 4H), 0.95–0.85 (m, 3H). Contains ca 20% (Z)-2-(oct-3-enyl)oxirane.

reactant | 2-(But-3-enyl)oxirane | 10.2 mmol, 1.000 g | C(CC=C)C1OC1 | C6H10O
reactant | hex-1-ene | 102 mmol, 9.12 g | C=CCCCC | C6H12
product | (±)-(E)-2-(oct-3-enyl)oxirane | C(C\C=C\CCCC)C1OC1 | C10H18O
